US03984427
A solution containing (±)-2-[3-(6-oxo-2-tetrahydropyranyl)propyl] -2,4,5-trimethyl-1,3-dioxolane (40 g.) in 200 ml. of tetrahydrofuran was cooled to -45° under nitrogen. A 2.12 molar solution of vinyl magnesium chloride in tetrahydrofuran was added dropwise at -45° to -50° over 10 minutes, stirring being continued at -55° to -60° for an additional 35 minutes. Then 10 ml. of methanol was added dropwise and the reaction mixture was poured onto a slurry of ice, ammonium chloride and ether. The ether layer was separated and the aqueous layer re-extracted twice with more ether. The ether layers were washed three times with brine, combined and dried over sodium sulfate. A small sample of the ether solution upon evaporation yielded 2-(7-hydroxy-3-oxo-dodec-1-en-10-yl)-2,4,5-trimethyl-1,3-dioxolane as an oil, UV absolute maximum (in ethanol) at 208 mμ,ε = 9,100.

reactant | (±)-2-[3-(6-oxo-2-tetrahydropyranyl)propyl] -2,4,5-trimethyl-1,3-dioxolane | 40 g | O=C1CCCC(O1)CCCC1(OC(C(O1)C)C)C | C14H24O4
reactant | vinyl magnesium chloride | C(=C)[Mg]Cl
reactant | methanol | CO | CH4O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 2-(7-hydroxy-3-oxo-dodec-1-en-10-yl)-2,4,5-trimethyl-1,3-dioxolane | OC(CCCC(C=C)=O)CCC(CC)C1(OC(C(O1)C)C)C | C18H32O4
